US04433160
24.6 g of ethyl α-(p-prenylphenyl)propionate was dissolved in 250 ml of ethanol, and a solution composed of 6.0 g of sodium hydroxide and 10 ml of water was added. The mixture was stirred overnight at room temperature, and concentrated. Water was added, and the mixtue was washed with diethyl ether. The resulting aqueous layer was acidified with 1 N hydrochloric acid, and extracted with diethyl ether. The extract was washed with an aqueous solution of sodium chloride, dried, concentrated and distilled to give 19.5 g of α-(p-prenylphenyl)propionic acid having the following boiling point and NMR spectrum.

reactant | ethyl α-(p-prenylphenyl)propionate | 24.6 g | C(C=C(C)C)C1=CC=C(C=C1)C(C(=O)OCC)C | C16H22O2
reactant | sodium hydroxide | 6.0 g | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | α-(p-prenylphenyl)propionic acid | 19.5 g | C(C=C(C)C)C1=CC=C(C=C1)C(C(=O)O)C | C14H18O2
